US04963543
To a solution of (2S,4R)-4-t-butyldimethylsilyloxy-2-(carbamoylmethyl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.10 g) in methanol (40 ml) was added conc. hydrochloric acid (0.72 ml) at ambient temperature. After stirring at the same temperature for 1 hour, this reaction mixture was concentrated under reduced pressure to give a residue. The residue was dissolved in ethyl acetate (60 ml). The solution was washed with saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride successively, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give a residue. The residue was washed with a mixture of ethyl acetate (30 ml) and diisopropyl ether (15 ml). The resulting precipitates were collected by filtration and air-dried to give (2S,4R)-2-(carbamoylmethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.08 g).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-(carbamoylmethyl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.10 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSCC(N)=O | C21H33N3O6SSi
reactant | hydrochloric acid | 0.72 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-2-(carbamoylmethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.08 g | C(N)(=O)CSC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O6S
